.include spice_models/D_1N4148.mod

V1 1 0 DC 0
D1 1 2 D1N4148


* Trying to plot the current through R1 has a quirk
*   > This is a known ngspice quirk — i(R1) doesn't always work for resistors. 
* The workaround is to add a 0V voltage source in series with the resistor, 
* and measure the current through that.
Vmeas 2 3 DC 0    ; 0V source = short circuit, just measures current


R1 3 0 1k

.dc V1 -2 10 0.01      ; Sweep from -2V to +1V in 10mV steps




** Control part
.control
run

plot i(Vmeas)

.endc


.end